US05001255
3-(3',5'-Dimethylphenyl)-1H-indene (Compound CXII)
20 mg. of iodine and 0.2-0.3 ml. of 1,2-dibromoethane are added to a suspension of 5 g. (0.21 mole) of magnesium in 15 ml. of dry tetrahydrofuran stirred at 20°-25° C. under nitrogen. When the reaction commences and the color of iodine disappears, a solution of 38 g. (0.205 mole) of 1-bromo-3,5-dimethylbenzene in 150 ml. of dry tetrahydrofuran is added dropwise over a period of about 1 hour at a rate such that the reaction mixture gently refluxes, the reaction mixture is refluxed for 1 hour and cooled to 20°-25° C., a solution of 26 g. (0.197 mole) of 1-indanone in 150 ml. of dry tetrahydrofuran is added dropwise over a period of 30 minutes, and the reaction mixture is maintained at 20°-25° C. for 30 minutes, the reaction mixture being stirred under nitrogen throughout. The reaction mixture is poured into cold (0°- 5° C.) saturated ammonium chloride solution, and the mixture is extracted three times with ethyl acetate. The ethyl acetate extracts are combined, washed with water, washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered and evaporated at reduced pressure to obtain a yellow oil (54 g.). The obtained oil is dissolved in 70 ml. of glacial acetic acid, and the reaction mixture is refluxed for 30 minutes and evaporated at reduced pressure to obtain a brown oil. The oil is subjected to a Kugelrohr distillation to obtain the product as a yellow oil (34 g. (79%)) (collected at a bath temperature of 115°-125° C. at 1 mm. Hg.).

reactant | iodine | II | I2
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | magnesium | 0.21 mole | [Mg] | Mg
reactant | 1-bromo-3,5-dimethylbenzene | 0.205 mole | BrC1=CC(=CC(=C1)C)C | C8H9Br
reactant | 1-indanone | 0.197 mole | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(3',5'-Dimethylphenyl)-1H-indene | 34 g, 79% | CC=1C=C(C=C(C1)C)C1=CCC2=CC=CC=C12 | C17H16
